.SUBCKT mun5335dw1t1g 1 2 3 4 5 6
*Model generated on 10/17/2019*MODEL FORMAT: PSPICE
*
x1 6 2 1 mun5335n
x2 3 5 4 mun5335p
.ENDS mun5335dw1t1g
*
.SUBCKT mun5335n 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* MODEL FORMAT: PSpice
* BRT macro model
* External node
* Node 1 -> BRT_C
* Node 2 -> BRT_B
* Node 3 -> BRT_E
QOUT 1 4 3 qmodel
R1   2 4 2200
R2   4 3 47000
.MODEL qmodel npn
+IS=5.82139e-12 BF=231.281 NF=1.29269 VAF=501.857
+IKF=0.26523 ISE=3.23594e-12 NE=2.03431 BR=0.150301
+NR=1.5 VAR=190.313 IKR=0.2089 ISC=1.12003e-13
+NC=1.53908 RB=115.94 IRB=0.2 RBM=10
+RE=0.0001 RC=1.86264 XTB=2.36313 XTI=1 EG=1.05
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=3.44678e-12
+VJC=0.4 MJC=0.242586 XCJC=0.9 FC=0.5
.ENDS
*
.SUBCKT mun5335p 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* MODEL FORMAT: PSpice
* BRT macro model
* External node
* Node 1 -> BRT_C
* Node 2 -> BRT_B
* Node 3 -> BRT_E
QOUT 1 4 3 qmodel
R1   2 4 2200
R2   4 3 47000
.MODEL qmodel pnp
+IS=7.27246e-14 BF=1000 NF=0.968134 VAF=134.164
+IKF=0.493537 ISE=2.97141e-12 NE=1.37111 BR=1.09642
+NR=1.01983 VAR=107.027 IKR=0.100594 ISC=9.99933e-14
+NC=2.0003 RB=9.54389 IRB=0.2 RBM=0.954389
+RE=0.10428 RC=1.80211 XTB=1.86497 XTI=3.01285 EG=1.05
+CJE=9.99999e-12 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=8.46558e-12
+VJC=0.4 MJC=0.607138 XCJC=0.9 FC=0.5
.ENDS

