* UMF5N NPN DT model
* Date: 2007/01/11
* BJT with resistors
*****************C B E
.SUBCKT UMF5N 1 2 3 4 5 6
R1 5 Base Rb 47k
R2 Base 4 Re 47k
Q1 3 Base 4 QDTC1
Q2 6 2 1 QUMF5N
.MODEL Rb RES
+ R=1
.MODEL Re RES
+ R=1
.MODEL QDTC1 NPN
+ IS=20.000E-15
+ BF=198.80
+ VAF=15
+ IKF=.28787
+ ISE=20.001E-15
+ NE=1.6289
+ BR=8.4556
+ VAR=100
+ IKR=.2645
+ ISC=8.0686E-12
+ NC=2.3678
+ NK=.75224
+ RE=.2
+ RB=10.670
+ RC=1.1274
+ CJE=11.342E-12
+ MJE=.38289
+ CJC=4.0230E-12
+ MJC=.34629
+ TF=500.00E-12
+ XTF=580.91
+ VTF=195.13
+ ITF=19.351
+ TR=200.00E-9
+ XTB=1.5000
*********************
.MODEL QUMF5N PNP
+ IS=110.00E-15
+ BF=394.09
+ VAF=21.739
+ IKF=.52024
+ ISE=110.00E-15
+ NE=1.6818
+ BR=28.439
+ VAR=100
+ IKR=1.3710
+ ISC=2.0285E-12
+ NC=2.1543
+ NK=.56117
+ RE=.1
+ RB=4.9687
+ RC=.26205
+ CJE=44.776E-12
+ MJE=.43395
+ CJC=8.9662E-12
+ MJC=.25891
+ TF=371.39E-12
+ XTF=24.384
+ VTF=41.974
+ ITF=32.155
+ TR=10.676E-9
+ XTB=1.5000
.ENDS UMF5N
